US07365066B2
6-[2-(6-Methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-imidazo[1,2-a]pyridin-2-ylamine
Stir 3-bromo-2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine (500 mg, 1.74 mmol) in THF (20 ml) at −60° C. and add t-butyl lithium (4 ml, 6.94 mmol, 1.7M in pentane). Stir for 1 hour, then add tri-isopropyl borate (1.2 ml, 5.2 mmol) and warm to 0° C. for 1 hour. Quench with 1M HCl (5 ml). Concentrate in vacuo and redissolve in a 2:1 toluene/methanol mixture (30 ml). Adjust to pH 8 with aqueous 2M Na2CO3. Add 100 mg Pd(PPh3)4 and 2,2,2-trifluoro-N-(6-iodo-imidazo[1,2-a]pyridin-2-yl)-acetamide (200 mg, 563 mmol) and heat to 90° C. for 18 hours. Acidify with 1M HCl and extract with ethyl acetate (3×100 ml). Neutralize aqueous layer with 5N NaOH and extract with ethyl acetate (3×100 ml). Concentrate organic layer in vacuo and purify on Silica gel (eluting with 70/30 Hexane/EtOAc). MS ES+ m/e 341.1 (M+1).

reactant | 3-bromo-2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine | 1.74 mmol, 500 mg | BrC=1C(=NN2C1C=CC=C2)C2=NC(=CC=C2)C | C13H10BrN3
reactant | t-butyl lithium | 6.94 mmol, 1.7M, 4 ml | C(C)(C)(C)[Li]
reactant | tri-isopropyl borate | 5.2 mmol, 1.2 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 2,2,2-trifluoro-N-(6-iodo-imidazo[1,2-a]pyridin-2-yl)-acetamide | 563 mmol, 200 mg | FC(C(=O)NC=1N=C2N(C=C(C=C2)I)C1)(F)F | C9H5F3IN3O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-[2-(6-Methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-imidazo[1,2-a]pyridin-2-ylamine | CC1=CC=CC(=N1)C1=NN2C(C=CC=C2)=C1C=1C=CC=2N(C1)C=C(N2)N | C20H16N6
